US06268387B1
4-Methoxy-N-phenyl-3-(3-benzoyl-thioureido)-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.243 g, 1.0 mmol) and benzoyl isothiocyanate (0.171 g, 1.04 mmol) to afford the product (0.371 g); m.p. 219-222° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 1.0 mmol, 0.243 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | benzoyl isothiocyanate | 1.04 mmol, 0.171 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | 4-Methoxy-N-phenyl-3-(3-benzoyl-thioureido)-benzamide | 0.371 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC(C1=CC=CC=C1)=O | C22H19N3O3S
